US04293702
2,4-Dichlorobenzothiazole (10.21 g, 0.05 mole) and 94% sodium hydroxide (8.30 g, 0.075 mole) were added to a 50 (V/V) % water/methanol mixed solvent (150 c.c.), and the mixture was heated under reflux for 30 minutes. After cooling, water (100 c.c.) was added to the reaction solution, followed by ice-cooling. The deposited crystals were filtered and washed with water to obtain 9.22 g of 2-methoxy-4-chlorobenzothiazole. Yield 92.4%, purity 100%, m.p. 55°-57° C.

reactant | 2,4-Dichlorobenzothiazole | 0.05 mole, 10.21 g | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
reactant | sodium hydroxide | 0.075 mole, 8.30 g | [OH-].[Na+]
reactant | water methanol | O.CO
solvent | water | O | H2O
product | 2-methoxy-4-chlorobenzothiazole | 9.22 g, Yield 92.4% | COC=1SC2=C(N1)C(=CC=C2)Cl | C8H6ClNOS
